US07244864B2
5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide
A mixture of 2-amino-1,3-dihydroxypropane (31 g, 340 mmol) and 5-amino-1,3-benzenedicarboxylic acid di-n-butyl ester (20.0 g, 68.2 mmol) is heated to 125° C. for 3 hours while the n-butyl alcohol which forms is distilled off. After cooling the reaction mixture to about 70° C. the solution is diluted with methanol (0.35 L) and a solid product crystallizes out. After 4 hours at room temperature the mixture is filtered and the solid on filter is washed with methanol (30 mL) and dried yielding the compound of the title (21.4 g, 65.5 mmol, yield: 96%).

reactant | 2-amino-1,3-dihydroxypropane | 340 mmol, 31 g | NC(CO)CO | C3H9NO2
reactant | 5-amino-1,3-benzenedicarboxylic acid di-n-butyl ester | 68.2 mmol, 20.0 g | C(CCC)OC(=O)C1=CC(=CC(=C1)N)C(=O)OCCCC | C16H23NO4
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide | yield: 96% | NC=1C=C(C=C(C1)C(=O)NC(CO)CO)C(=O)NC(CO)CO | C14H21N3O6
